US09216999B2
trans-4-[(tert-Butyldiphenylsilyloxy)methyl]-N-methoxy-N-methylcyclohexanecarboxamide
trans-4-(Hydroxymethyl)-N-methoxy-N-methylcyclohexanecarboxamide (403 mg, 2.00 mmol) in N,N-dimethylformamide (4 mL) was mixed with tert-butylchlorodiphenylsilane (514 μL, 2.00 mmol) and 1H-imidazole (136 mg, 2.00 mmol) under cooling with ice and stirred for one day while the temperature was gradually raised to room temperature. After addition of water, the reaction mixture was extracted with ethyl acetate, and the organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=8/1 (v/v)) to give the title compound as a colorless oil (536 mg, yield 61%).

reactant | trans-4-(Hydroxymethyl)-N-methoxy-N-methylcyclohexanecarboxamide | 2.00 mmol, 403 mg | OC[C@@H]1CC[C@H](CC1)C(=O)N(C)OC | C10H19NO3
reactant | tert-butylchlorodiphenylsilane | 2.00 mmol, 514 μL | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
reactant | 1H-imidazole | 2.00 mmol, 136 mg | N1C=NC=C1 | C3H4N2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | trans-4-[(tert-Butyldiphenylsilyloxy)methyl]-N-methoxy-N-methylcyclohexanecarboxamide | 536 mg, yield 61% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H]1CC[C@H](CC1)C(=O)N(C)OC | C26H37NO3Si
